US06872731B2
7-Methoxyimidazo[1,2-α]pyridine (1.0 g, 6.8 mmol) and sodium acetate (0.67 g, 8.1 mmol) were dissolved in a saturated solution of potassium bromide in methanol (5 ml) and cooled to 0° C. before adding bromine (1.13 g, 7.1 mmol) dropwise over 5 min. The mixture was allowed to stir for 15 min before pouring onto saturated sodium hydrogencarbonate solution (50 ml). The resulting yellow solid was collected by filtration and dried. This solid was purified by flash column chromatography on silica eluting with 50% ethyl acetate in isohexane to afford 3-bromo-7-methoxyimidazo[1,2-α]pyridine (0.4 g, 26%) as a white solid. 1H NMR (360 MHz, CDCl3) δH 3.87 (3H, s), 6.64 (1H, dd, J 2 and 7), 6.88 (1H, d, J 2), 7.45 (1H, s), 7.92 (1H, d, J 7).

reactant | 7-Methoxyimidazo[1,2-α]pyridine | 6.8 mmol, 1.0 g | COC1=CC=2N(C=C1)C=CN2 | C8H8N2O
reactant | sodium acetate | 8.1 mmol, 0.67 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 7.1 mmol, 1.13 g | BrBr | Br2
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | potassium bromide | [Br-].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-bromo-7-methoxyimidazo[1,2-α]pyridine | 0.4 g, 26% | BrC1=CN=C2N1C=CC(=C2)OC | C8H7BrN2O
